US05145860
A mixture of 2-acetylaminomethyl-4,5-bis(4-methoxyphenyl)thiazole (1.00 g) and concentrated hydrochloric acid (7 ml) was refluxed for 2 hours and 40 minutes. After allowing to cool to ambient temperature, the mixture was poured into water, and the resulting solution was neutralized by addition of 4N sodium hydroxide, and extracted with ethyl acetate. The organic layer was washed with saturated sodium hydrogencarbonate solution, water, and brine, and dried over magnesium sulfate and treated with activated charcoal. After filtration, the filtrate was evaporated in vacuo to give 2-aminomethyl-4,5-bis(4-methoxyphenyl)thiazole hydrochloride. And this compound was dissolved in dichloromethane (10 ml) and triethylamine (0.33 ml). To the above reaction mixture was added a solution of nicotinoyl chloride hydrochloride (0.58 g) and dichloromethane (5 ml) at ambient temperature, and was stirred at ambient temperature for 3 hours and refluxed for one and a half hour. After allowing to cool to ambient temperature, the mixture was poured into water, and the resulting solution was neutralized by addition of 4N sodium hydroxide, and extracted with dichloromethane. The organic layer was washed with saturated aqueous sodium hydrogencarbonate, water, and brine, and dried over magnesium sulfate and treated with activated charcoal. After filtration, the filtrate was evaporated in vacuo, and the resulting residue was dissolved in diethyl ether, and added methanol solution of hydrogen chloride. The resulting precipitate was collected by filtration and washed with ethanol and diethyl ether to give 4,5-bis(4-methoxyphenyl)-2-(nicotinoylaminomethyl)-thiazole hydrochloride (0.63 g).

reactant | 2-acetylaminomethyl-4,5-bis(4-methoxyphenyl)thiazole | 1.00 g | C(C)(=O)NCC=1SC(=C(N1)C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC | C20H20N2O3S
reactant | hydrochloric acid | 7 ml | Cl | ClH
reactant | sodium hydroxide | 4N | [OH-].[Na+]
solvent | water | O | H2O
product | 2-aminomethyl-4,5-bis(4-methoxyphenyl)thiazole hydrochloride | Cl.NCC=1SC(=C(N1)C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC | InChI=1S/C18H18N2O2S.ClH/c1-21-14-7-3-12(4-8-14)17-18(23-16(11-19)20-17)13-5-9-15(22-2)10-6-13;/h3-10H,11,19H2,1-2H3;1H
